US04042610
A solution of 4.87 g of neopentyllithium in pentane was added to a solution of 7.0 g of titanium tetrakis(dimethylamide) in pentane with stirring. Lithium dimethylamide precipitated rapidly. The total amount of pentane in the reaction mixture was about 50-100 ml. After being stirred for one hour the mixture was filtered, and pentane was evaporated from the filtrate to give 7.5 g (86%) of dineopentyltitanium bis(dimethylamide) as an air-sensitive yellow oil. Nmr C6D6 : δ (NMe) 3.23, δ (CMe3) 1.05 ppm downfield from tetramethylsilane.

reactant | neopentyllithium | 4.87 g | C(C(C)(C)C)[Li]
reactant | titanium tetrakis(dimethylamide) | 7.0 g | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Ti+4]
solvent | pentane | CCCCC | C5H12
product | dineopentyltitanium bis(dimethylamide) | 7.5 g, 86% | C[N-]C.C[N-]C.C(C(C)(C)C)[Ti+2]CC(C)(C)C | InChI=1S/2C5H11.2C2H6N.Ti/c2*1-5(2,3)4;2*1-3-2;/h2*1H2,2-4H3;2*1-2H3;/q;;2*-1;+2
